US09126950B2
In a 100 mL Autoclave, Pd—C (0.035 g) and ethanol were charged. tert-butyl (3-((2-((3-(benzyloxy)-4-(2-methoxyethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate (0.35 g) was added to the above reaction mixture, and the autoclave was flushed with nitrogen. Hydrogen pressure (140 psi) was applied and reaction mixture was stirred at room temperature for 50 hr. After completion, the reaction mixture was filtered using Celite and the filter cake was washed with ethanol. The filtrate was concentrated under reduced pressure at 40° C. to give 0.240 g of tert-butyl (3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate. 1H NMR: DMSO-d6 (400 MHz): 1.475 (s, 9H), 3.316 (s, 3H), 3.618-3.641 (t, 2H, J=4.4), 4.028-4.050 (t, 2H, J=4.4), 6.732-6.753 (d, 1H, J=8.4), 7.075-7.097 (m, 2H), 7.141-7.208 (m, 2H), 7.476-7.495 (d, 1H, J=7.6), 7.851 (s, 1H), 8.036-8.045 (d, 1H, J=3.6), 8.784-8.796 (d, 2H, J=4.8), 9.260-9.301 (d, 2H, J=16.4).

reactant | tert-butyl (3-((2-((3-(benzyloxy)-4-(2-methoxyethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate | 0.35 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCCOC)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)F | C31H34FN5O5
catalyst | Pd—C | 0.035 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | tert-butyl (3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate | 0.240 g | FC=1C(=NC(=NC1)NC1=CC(=C(C=C1)OCCOC)O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C24H28FN5O5
